US09193721B2
Step B: 3-(4-{8-Chloro-6-[1-(9H-purin-6-ylamino)ethyl]imidazo[1,5-a]pyridin-5-yl}piperazin-1-yl)-3-oxopropanenitrile
A mixture of 3-{4-[6-(1-aminoethyl)-8-chloroimidazo[1,5-a]pyridine-5-yl}piperazin-1-yl]-3-oxopropanenitrile (18 mg, 0.052 mmol), 6-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (29 mg, 0.10 mmol) and N,N-diisopropylethylamine (27 μL, 0.16 mmol) in ethanol (1.0 mL) was heated at 110° C. overnight. The mixture was evaporated and a 4 M solution of hydrogen chloride in 1,4-dioxane (1.0 mL, 4.0 mmol) was added. The mixture was evaporated and a 4 M solution of hydrogen chloride in 1,4-dioxane (1.0 mL, 4.0 mmol) was added. The mixture was evaporated and purified by preparative LCMS (pH 10) to give the desired compound (8.6 mg, 36%). LCMS calculated for C21H22ClN10O (M+H)+: m/z=465.2. found: 464.9.

reactant | 3-{4-[6-(1-aminoethyl)-8-chloroimidazo[1,5-a]pyridine-5-yl}piperazin-1-yl]-3-oxopropanenitrile | 0.052 mmol, 18 mg | NC(C)C=1C=C(C=2N(C1N1CCN(CC1)C(CC#N)=O)C=NC2)Cl | C16H19ClN6O
reactant | 6-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 0.10 mmol, 29 mg | BrC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11BrN4O
reactant | N,N-diisopropylethylamine | 0.16 mmol, 27 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 4.0 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 4.0 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 3-(4-{8-Chloro-6-[1-(9H-purin-6-ylamino)ethyl]imidazo[1,5-a]pyridin-5-yl}piperazin-1-yl)-3-oxopropanenitrile | 8.6 mg, 36% | ClC=1C=2N(C(=C(C1)C(C)NC1=C3N=CNC3=NC=N1)N1CCN(CC1)C(CC#N)=O)C=NC2 | C21H21ClN10O
